US06743919B2
Lithium diisopropylamide (2 M solution in petane/ethylbenzene/THF, 57 uL, 0.12 mmol) was added to a stirred solution of 2-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-pyridine (10.5 mg, 0.038 mmol) in dry THF (3 mL) at −78° C. under N2. After 1 hour at this temperature, a solution of N-4-chlorobenzylindole-3-carboxaldehyde (31 mg, 0.12 mmol) in dry THF (1 mL) was then added through a cannula. The resultant clear solution was stirred at −78° C. for 2 hours. The temperature was then allowed to rise to room temperature and the reaction was quenched by the addition of saturated aqueous NH4Cl (5 mL), extracted with dichloromethane (3×10 mL). The organic layer was separated, dried (Na2SO4), and concentrated under reduced pressure. Flash silica gel chromatography (4:1 hexane/ethyl acetate then 2:1 ethyl acetate/hexane then 4:1 ethyl acetate/MeOH) provided the product [1-(4-Chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanol as a light yellow syrup (18 mg, 87%). 1H NMR δ−0.05 (s, 9H), 0.81 (t, 2H, J=7), 3.38 (t, 2H, J=7), 5.05-5.35 (m, 5H), 6.30 (s, 1H), 6.95-7.30 (m, 9H), 7.45 (d, 1H, J=6), 7.65 (s, 1H), 7.71 (t, 1H, J=6), 8.05 (d, 1H, J=6), 8.60 (d, 1H, J=4)ppm; ESMS calcd for (C30H33ClN4O2Si): 544.2; found: 545.2 (M+H)+.

reactant | Lithium diisopropylamide | 0.12 mmol, 2 M, 57 uL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethylbenzene THF | C(C)C1=CC=CC=C1.C1CCOC1
reactant | 2-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-yl]-pyridine | 0.038 mmol, 10.5 mg | C[Si](CCOCN1C=NC(=C1)C1=NC=CC=C1)(C)C | C14H21N3OSi
reactant | N-4-chlorobenzylindole-3-carboxaldehyde | 0.12 mmol, 31 mg | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C=O)C=C1 | C16H12ClNO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | [1-(4-Chloro-benzyl)-1H-indol-3-yl]-[4-pyridin-2-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-methanol | 18 mg, 87% | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(O)C=2N(C=C(N2)C2=NC=CC=C2)COCC[Si](C)(C)C)C=C1 | C30H33ClN4O2Si
